US09056873B2
6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(3-methylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a stirred solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(3-methylisothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (82 mg, 0.146 mmol) in MeOH (2.0 mL) was added 4N HCl/dioxane (2.0 mL, 8.00 mmol). The reaction mixture was heated to 60° C. for 1 hour. Following reaction, the mixture was concentrated in vacuo. The residue was triturated with EtOAc and filtered. The filter cake was washed with EtOAc to yield crude desired compound as a yellow solid. The crude product was recrystallized from MeOH-Et2O to give a hydrochloride salt of the title compound as a white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.37-1.56 (m, 2H), 1.58-1.83 (m, 4H), 1.84-2.04 (m, 2H), 2.46 (s, 3H), 3.73 (br. s., 1H), 4.17-4.29 (m, 1H), 4.47 (s, 2H), 7.17 (d, J=5.37 Hz, 1H), 7.84 (br. s., 3H), 8.66 (s, 1H), 8.76 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C17H20FN5OS, 362. found, 362.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(3-methylisothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.146 mmol, 82 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC(=NS1)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H36FN5O5S
reactant | HCl dioxane | 8.00 mmol, 4N, 2.0 mL | Cl.O1CCOCC1
solvent | MeOH | 2.0 mL | CO | CH4O
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(3-methylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC(=NS1)C)C(NC2)=O)F | C17H20FN5OS
